US06130228
1-(4'-Methoxyphenyl)-1,4-dihydro-indeno[1,2-c] pyrazole (Intermediate Leading to Compound 36)
2-Hydroxymethylene inden-l-one (Example 1(ii) (a) (4.0 g; 25 mmol), p-methoxyphenyl hydrazine hydrochloride (Aldrich) (4.41 g; 25.25 mmol), 10 M hydrochloric acid (1 cm3) and ethanol (30 cm3), were heated under reflux, for 21 hours. After cooling, the mixture was concentrated in vacuo and the residue dissolved in dichloromethane, then washed with 2M NaOH, dried, filtered and concentrated in vacuo. Purification by column chromatography [Eluant: (dichloromethane: ethanol: ammonia (200:8:1)] Kugelrohr distillation (170° C.; 0.02 mmHg) and recrystallisation (ethanol) afforded needle shaped crystals, m.p. 102-103° C.

reactant | 2-Hydroxymethylene inden-l-one | OC=C1C(C2=CC=CC=C2C1)=O | C10H8O2
reactant | p-methoxyphenyl hydrazine hydrochloride | 25.25 mmol, 4.41 g | Cl.COC1=CC=C(C=C1)NN
reactant | hydrochloric acid | 10 M, 1 cm3 | Cl | ClH
solvent | ethanol | 30 cm3 | C(C)O | C2H6O
product | 1-(4'-Methoxyphenyl)-1,4-dihydro-indeno[1,2-c] pyrazole | COC1=CC=C(C=C1)N1N=CC2=C1C1=CC=CC=C1C2 | C17H14N2O
